US08334301B2
ethyl 1-(2,5-difluorophenyl)-5-hydroxy-1H-pyrazole-3-carboxylate
To a solution of (2,5-difluorophenyl)hydrazine hydrochloride (25.0 g) in ethanol (500 mL) were added potassium carbonate (38.3 g) and diethyl but-2-ynedioate (23.6 g). After refluxing for 18 hr, the mixture was cooled to 0° C. and acidified with 6 mol/L hydrochloric acid. Ethanol was evaporated under reduced pressure, and the residue was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was washed with a mixed solvent of ethyl acetate and diisopropyl ether, and the obtained solid was collected by filtration and dried under reduced pressure to give the title compound as a pale-yellow solid (yield 22.7 g, yield 61%).

reactant | (2,5-difluorophenyl)hydrazine hydrochloride | 25.0 g | Cl.FC1=C(C=C(C=C1)F)NN
reactant | potassium carbonate | 38.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl but-2-ynedioate | 23.6 g | C(C#CC(=O)OCC)(=O)OCC | C8H10O4
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | ethyl 1-(2,5-difluorophenyl)-5-hydroxy-1H-pyrazole-3-carboxylate | yield 22.7 g, yield 61% | FC1=C(C=C(C=C1)F)N1N=C(C=C1O)C(=O)OCC | C12H10F2N2O3
